US08486952B2
A mixture of 2,4-dichloro-8-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline (115 mg, 0.387 mmol), Ammonium chloride (26.9 mg, 0.503 mmol) and zinc (266 mg, 4.06 mmol) in acetone (1 mL) and water (1.000 mL) was heated at 90° C. with stirring for 2 h. The reaction mixture was filtered through a short plug of celite. The solvent was removed in vacuum, and the residue was partitioned between dichloromethane and water. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give 2-chloro-8-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline (20 mg, 0.076 mmol, 19.67% yield) as a white solid. LC-MS (M+H)+=263.2.

reactant | 2,4-dichloro-8-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline | 0.387 mmol, 115 mg | ClC1=NC=2C(CCCC2C(=N1)Cl)C1=CC=C(C=C1)F | C14H11Cl2FN2
reactant | Ammonium chloride | 0.503 mmol, 26.9 mg | [Cl-].[NH4+]
solvent | acetone | 1 mL | CC(=O)C | C3H6O
solvent | water | 1.000 mL | O | H2O
catalyst | zinc | 4.06 mmol, 266 mg | [Zn] | Zn
product | 2-chloro-8-(4-fluorophenyl)-5,6,7,8-tetrahydroquinazoline | 0.076 mmol, 20 mg, 19.67% yield | ClC1=NC=2C(CCCC2C=N1)C1=CC=C(C=C1)F | C14H12ClFN2
